US07745641B2
5-Hydroxyindole (3.49 g, 26.2 mmol) was dissolved in acetonitrile (35.0 mL), and the solution was added with di-tert-butyldicarbonate (18.1 mL, 78.6 mmol) and DMAP (294 mg, 2.62 mmol), followed by stirring at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in methanol (130 mL) and added with potassium carbonate (18.1 g, 131 mmol) followed by stirring at room temperature for 4 hours. The mixture was added with acetic acid (7.50 mL) to neutralize, then added with water, followed by extracting with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (hexane/ethyl acetate=2/1) to obtain 1-(tert-butoxycarbonyl)-5-hydroxyindole (5.74 g, 94%).

reactant | 5-Hydroxyindole | 26.2 mmol, 3.49 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | di-tert-butyldicarbonate | 78.6 mmol, 18.1 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 131 mmol, 18.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | 7.50 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 35.0 mL | C(C)#N | C2H3N
catalyst | DMAP | 2.62 mmol, 294 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 1-(tert-butoxycarbonyl)-5-hydroxyindole | 5.74 g, 94% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)O | C13H15NO3
